US07524853B2
3-Benzyl-8-chloro-4-oxo-2-(3,4,5-trimethoxyphenyl)-3,4,5,6-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-7-carbaldehyde
POCl3 (3.5 ml) was added slowly to a cold, dry DMF (2.3 ml). 3-Benzyl-2-(3,4,5-trimethoxyphenyl)-6,7-dihydro-3H,5H-benzo[4,5]thieno[2,3-d]pyrimidine-4,8-dione (compound No. 2) (0.5 g, 1.1 mmol) in 1,2-dichloroethane was added slowly to the Vilsmeier reagent and stirred at room temperature for three hours after which the reaction mixture was refluxed for 15 minutes. After stirring overnight at room temperature the reaction mixture was diluted with dichloromethane and neutralized with NaOAc-solution (12 g/100 ml). The product was extracted with dichloromethane (3×30 ml). Organic phase was washed with water and dried. The crude product was purified by flash chromatography. The yield was 0.45 g (82%).

reactant | POCl3 | 3.5 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 3-Benzyl-2-(3,4,5-trimethoxyphenyl)-6,7-dihydro-3H,5H-benzo[4,5]thieno[2,3-d]pyrimidine-4,8-dione | 1.1 mmol, 0.5 g | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)C1=C(S2)C(CCC1)=O)C1=CC(=C(C(=C1)OC)OC)OC | C26H24N2O5S
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | NaOAc | 100 ml, 12 g | CC(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 2.3 ml | CN(C)C=O | C3H7NO
product | 3-Benzyl-8-chloro-4-oxo-2-(3,4,5-trimethoxyphenyl)-3,4,5,6-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-7-carbaldehyde | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)C1=C(S2)C(=C(CC1)C=O)Cl)C1=CC(=C(C(=C1)OC)OC)OC | C27H23ClN2O5S
